US08314091B2
D: 3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-(3,3-difluorocyclobutyl)benzamide
N-(3,3-Difluorocyclobutyl)-3-(piperazin-1-ylmethyl)benzamide (5.14 mmol, 1.59 g), 4-amino-3-fluorobenzoic acid (5.14 mmol, 0.797 g) and triethylamine (15.42 mmol, 2.143 mL, 1.560 g) were stirred in dichloromethane (30 mL) at room temperature. 1-Propanephosphonic acid cyclic anhydride (7.71 mmol, 4.59 mL, 4.91 g, 50% solution in ethyl acetate) was added dropwise and the reaction stirred for 1 hour. The reaction mixture was concentrated under vacuum and the residue taken up in ethyl acetate. The organic phase was washed with saturated sodium hydrogen carbonate solution, dried over sodium sulfate and concentrated under vacuum to afford the title compound (1.255 g). MS (ESI) m/z 447.5 [M+H]+

reactant | N-(3,3-Difluorocyclobutyl)-3-(piperazin-1-ylmethyl)benzamide | 5.14 mmol, 1.59 g | FC1(CC(C1)NC(C1=CC(=CC=C1)CN1CCNCC1)=O)F | C16H21F2N3O
reactant | 4-amino-3-fluorobenzoic acid | 5.14 mmol, 0.797 g | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | triethylamine | 15.42 mmol, 2.143 mL, 1.560 g | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 7.71 mmol, 4.59 mL, 4.91 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-(3,3-difluorocyclobutyl)benzamide | 1.255 g | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC3CC(C3)(F)F)C=CC2)C=C1)F | C23H25F3N4O2
